US08912186B2
2) 4-(5-Chloro-2-benzimidazolyl)-3-(4-chlorophenyl)butyrohydroxamic acid
The above mentioned regioisomeric mixture of 7-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one and 8-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one (331 mg) and hydroxylamine•HCl (83 mg) in ethanol (2 ml) was heated to reflux with stirring. Sodium ethanolate (82 mg) was added to give a clear solution. Refluxing was continued for 1 h whereupon a new precipitate is formed. Water (2 ml) was added and the mixture was kept at rt overnight. The solid was isolated by suction filtration and washed with water. After drying in vacuo 4-(5-chloro-2-benzimidazolyl)-3-(4-chlorophenyl)butyrohydroxamic acid (242 mg) is obtained as light red solid.

reactant | 7-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one | ClC1=CC2=C(N3C(=N2)CC(CC3=O)C3=CC=CC=C3)C=C1 | C17H13ClN2O
reactant | 8-chloro-3-phenyl-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one | 331 mg | ClC=1C=CC2=C(N3C(=N2)CC(CC3=O)C3=CC=CC=C3)C1 | C17H13ClN2O
reactant | hydroxylamine•HCl | 83 mg | NO.Cl
reactant | Sodium ethanolate | 82 mg | C(C)[O-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | Water | 2 ml | O | H2O
product | 4-(5-Chloro-2-benzimidazolyl)-3-(4-chlorophenyl)butyrohydroxamic acid | ClC1=CC2=C(N=C(N2)CC(CC(=O)NO)C2=CC=C(C=C2)Cl)C=C1 | C17H15Cl2N3O2
